US08685969B2
6. 4-(2-Fluorophenyl)-7-(morpholine-4-carbonyl)-9H-pyrido[3,4-b]indole-1-carboxamide
To a yellow, heterogeneous solution of 4-(2-fluorophenyl)-7-(morpholine-4-carbonyl)-9H-pyrido[3,4-b]indole-1-carboxylic acid (0.0381 g, 0.091 mmol), ammonium chloride (9.72 mg, 0.182 mmol), HOAt (0.025 g, 0.182 mmol) and EDC (0.035 g, 0.182 mmol) in DMF (1.0 mL) was added DIPEA (0.063 mL, 0.364 mmol). The reaction was stirred overnight. EtOAc and water were added, and the layers were separated. The organic layer was washed with brine and 10% aq. LiCl successively, dried over Na2SO4, filtered and concentrated in vacuo to give a residue which was diluted with MeOH (1 mL) and subjected to autoprep reverse phase HPLC purification. The appropriate fractions were combined, basified with NaHCO3 (solid), and concentrated in vacuo. It was extracted with CH2Cl2 (3×). The organic layers were combined, dried over Na2SO4, and concentrated in vacuo to give the desired product (0.0124 g, 0.030 mmol, 32.6% yield) as a white solid. LC/MS (M+H)=419.08; 1H NMR (500 MHz, DMSO-d6) δ ppm 12.03 (s, 1H), 8.38 (br. S, 1H), 8.32 (s, 1H), 7.89 (s, 1H), 7.86 (br. S, 1H), 7.63-7.75 (m, 2H), 7.44-7.58 (m, 2H), 7.34 (d, J=8.2 Hz, 1H), 7.13 (d, J=8.2 Hz, 1H), 3.42-3.83 (m, 8H).

reactant | 4-(2-fluorophenyl)-7-(morpholine-4-carbonyl)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.091 mmol, 0.0381 g | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=CC=C3C21)C(=O)N2CCOCC2)C(=O)O | C23H18FN3O4
reactant | ammonium chloride | 0.182 mmol, 9.72 mg | [Cl-].[NH4+]
reactant | HOAt | 0.182 mmol, 0.025 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.182 mmol, 0.035 g
reactant | DIPEA | 0.364 mmol, 0.063 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1 mL | CO | CH4O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-Fluorophenyl)-7-(morpholine-4-carbonyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.030 mmol, 0.0124 g, 32.6% yield | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=CC=C3C21)C(=O)N2CCOCC2)C(=O)N | C23H19FN4O3
